US07375087B2
To a solution of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-{2-[1-carboxy-1-(methyl)-ethylcarbamoyl]ethoxy}-2-methylphenyl)methyl]-5-isopropyl-1H-pyrazole (40 mg) in N,N-dimethylformamide (1 mL) were added 1-benzylpiperazine (12 mg), 1-hydroxybenzotriazole (8 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (16 mg) and triethylamine (0.023 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=30/1-15/1) to give 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(2-{1-[(4-benzylpiperazin-1-yl)carbonyl]-1-(methyl)-ethylcarbamoyl}ethoxy)-2-methylphenyl]methyl}-5-isopropyl-1H-pyrazole (31 mg). This material was dissolved in methanol (3 mL). To the solution was added sodium methoxide (28% methanol solution, 0.02 mL), and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added acetic acid (0.04 mL). The resulting mixture was concentrated under reduced pressure, and the residue was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent: methanol) to give 4-{[4-(2-{1-[(4-benzylpiperazin-1-yl)carbonyl]-1-(methyl)-ethylcarbamoyl}ethoxy)-2-methylphenyl]methyl}-3-(β-D-glucopyranosyloxy)-5-isopropyl-1H-pyrazole (24 mg). This material was dissolved in methanol (3 mL). To the solution was added 10% palladium-carbon powder (10 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere overnight. The insoluble material was removed under reduced pressure, and the solvent of the filtrate was removed under reduced pressure to give the title compound (20 mg).

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-{2-[1-carboxy-1-(methyl)-ethylcarbamoyl]ethoxy}-2-methylphenyl)methyl]-5-isopropyl-1H-pyrazole | 40 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)OCCC(NC(C)(C)C(=O)O)=O)C)C(C)C | C35H47N3O14
reactant | 1-benzylpiperazine | 12 mg | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | 1-hydroxybenzotriazole | 8 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 16 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | triethylamine | 0.023 mL | C(C)N(CC)CC | C6H15N
product | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(2-{1-[(4-benzylpiperazin-1-yl)carbonyl]-1-(methyl)-ethylcarbamoyl}ethoxy)-2-methylphenyl]methyl}-5-isopropyl-1H-pyrazole | 31 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)OCCC(NC(C)(C)C(=O)N1CCN(CC1)CC1=CC=CC=C1)=O)C)C(C)C | C46H61N5O13
